US05380721
A mixture of 2-(3-chloro-4-methoxybenzoyl)benzoic acid (10.46 g, 0,036 mol), toluene (50 mL) and methyl hydrazine (2.1 mL) was refluxed in the presence of a Dean Stark trap until the theoretical amount of water had been collected. The reaction mixture was cooled, and the product was collected by filtration to afford 7.42 g (68.7%) of 2-methyl-4-(3-chloro-4-methoxyphenyl)-1-(2H)-phthalazinone, m.p. 195°-195° C. An additional 1.89 g of product was also collected from the filtrate for a total of 9.31 g (86.2%).

reactant | 2-(3-chloro-4-methoxybenzoyl)benzoic acid | 0,036 mol, 10.46 g | ClC=1C=C(C(=O)C2=C(C(=O)O)C=CC=C2)C=CC1OC | C15H11ClO4
reactant | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
reactant | methyl hydrazine | 2.1 mL | CNN | CH6N2
solvent | water | O | H2O
product | 2-methyl-4-(3-chloro-4-methoxyphenyl)-1-(2H)-phthalazinone | 7.42 g, 68.7% | CN1C(C2=CC=CC=C2C(=N1)C1=CC(=C(C=C1)OC)Cl)=O | C16H13ClN2O2
